US08314100B2
1-[(6,7-Dichloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine (Compound 181)
Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 176 to obtain the titled compound (yield, 61%). 1H NMR (300 MHz, CDCl3) δ 3.31-3.30 (m, 4H), 3.75-3.76 (m, 4H), 4.15 (s, 3H), 6.80-6.82 (m, 1H), 6.90-6.91 (m, 2H), 7.18-7.23 (m, 1H), 7.32 (br s, 1H), 7.85 (s, 1H), 7.91 (s, 1H).

reactant | Ethyl N-(6,7-dichloro-2-methoxyquinoxalin-3-yl)carbamate | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)NC(OCC)=O | C12H11Cl2N3O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(6,7-Dichloro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | 61% | ClC=1C=C2N=C(C(=NC2=CC1Cl)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C20H18Cl3N5O2
